US06613743B2
1,3-dioxan-5-yl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate.
tert-butyl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate (0.09 mmol, 50 mg) was stirred in 1 mL trifluoroacetic acid (TFA) at room temperature for 5 hours. The TFA was removed under vacuum, and the resulting residue was dissolved in ethyl acetate, washed with 5% aq. potassium carbonate solution, brine, dried over magnesium sulfate, and concentrated to a residue. The resulting free amine, 1,3-dioxan-5-yl 4-nitrophenyl carbonate (0.09 mmol, 25 mg), diisopropylethylamine (0.14 mmol, 0.024 mL), a crystal of N,N-dlmethylaminopyridine, 4 A molecular sieves and acetonitrile (0.5 mL) were combined and stirred at room 'temperature for 20 hours. The reaction solution was concentrated to a residue, dissolved in ethyl acetate, washed with 1N HCl, 5% aq. potassium carbonate solution, brine, dried over magnesium sulfate, and concentrated under vacuum. The crude residue was purified by silica gel chromatography (2:1 hexanes/ethyl acetate) and crystallization from ether and hexanes to yield 10 mg (19%) of white solid. Rf=0.2 (2:1 hexanes/ethyl acetate); H1-NMR (CDCl3): δ 7.69 (2H,d), 7.29-7.18 (6H,m), 6.96 (2H,d), 5.01-4.93 (1H, m), 4.93-4.85 (1H,m), 4.74-4.70 (1H,m), 4.51-4.45 (1H,m), 4.22-4.11 (1H,m), 3.95-3.72 (7H,m), 3.86 (3H,s), 3.00-2.80 (3H,m), 2.10-1.97 (2H,m), 1.79-1.67 (2H,m), 1.61-1.53 (2H,m), 1.38-1.02 (6H,m); MS (ESI): M+H=580.

reactant | tert-butyl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate | 0.09 mmol, 50 mg | C(C1=CC=CC=C1)[C@@H]([C@H](C(OC1CCCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC)O)NC(OC(C)(C)C)=O | C28H40N2O7S
reactant | 1,3-dioxan-5-yl 4-nitrophenyl carbonate | 0.09 mmol, 25 mg | C(OC1COCOC1)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11NO7
reactant | diisopropylethylamine | 0.14 mmol, 0.024 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1,3-dioxan-5-yl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate | 10 mg, 19% | C(C1=CC=CC=C1)[C@@H]([C@H](C(OC1CCCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC)O)NC(OC1COCOC1)=O | C28H38N2O9S
